US07776882B2
5-Cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid
To a solution of 5-cyano-5-(diethoxy-phosphoryl)-4-(tetrahydro-pyran-4-yl)-pentanoic acid (2.68 g, 7.7 mmol) in THF (300 mL), sodium hydride (60%, 1.24 g) was added portionwise at room temperature. 2-Nitro-5-phenoxy-benzaldehyde (1.9 g, 7.7 mmol) was then added, and the reaction mixture was stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture, and the resulting solution washed with saturated aqueous NH4Cl solution. The organic phase was separated, dried with MgSO4, and filtered. The filtrate was evaporated in vacuo to yield an oil which was triturated with heptane to yield the title compound as a solid.

reactant | 5-cyano-5-(diethoxy-phosphoryl)-4-(tetrahydro-pyran-4-yl)-pentanoic acid | 7.7 mmol, 2.68 g | C(#N)C(C(CCC(=O)O)C1CCOCC1)P(=O)(OCC)OCC | C15H26NO6P
reactant | sodium hydride | 1.24 g | [H-].[Na+]
reactant | 2-Nitro-5-phenoxy-benzaldehyde | 7.7 mmol, 1.9 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OC1=CC=CC=C1 | C13H9NO4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5-Cyano-6-(2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid | C(#N)C(C(CCC(=O)O)C1CCOCC1)=CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C24H24N2O6
